US05843983
3(a) (2R,4R)-1-t-Butoxycarbonyl-2-[2-{4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenoxy}ethyl]-4-hydroxypvrrolidine
687 mg of 4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenol (prepared as described in Preparation 6) were dissolved in 12 ml of N,N-dimethylacetamide, and then 212 mg of potassium t-butoxide were added to the resulting solution, whilst ice-cooling. The resulting mixture was then stirred for 10 minutes, after which 687 mg of (2S,4R)-2-(2-chloroethyl)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine were added. The resulting mixture was then stirred at room temperature for 14 hours. At the end of this time, 135 mg of potassium t-butoxide were added to the reaction mixture, and the mixture was stirred at 40° C. for 4 hours, after which 300 ml of ethyl acetate were added. The resulting reaction mixture was washed with water and with a saturated aqueous solution of sodium chloride, in that order. The ethyl acetate layer was separated and dried over anhydrous magnesium sulfate. It was then concentrated by evaporation under reduced pressure. The resulting oily substance was purified by silica gel column chromatography, using a 2:3 by volume mixture of hexane and ethyl acetate as the eluent, to give 571 mg (yield 74%) of the title compound as a colorless oily substance.

reactant | 4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenol | 687 mg | FC1=CC(=C(C=C1)O)CCC1=CC=C(C=C1)F | C14H12F2O
reactant | potassium t-butoxide | 212 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-2-(2-chloroethyl)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine | 687 mg | ClCC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C17H34ClNO3Si
reactant | potassium t-butoxide | 135 mg | CC(C)([O-])C.[K+]
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 12 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-1-t-Butoxycarbonyl-2-[2-{4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenoxy}ethyl]-4-hydroxypvrrolidine | 571 mg, yield 74% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)CCOC1=C(C=C(C=C1)F)CCC1=CC=C(C=C1)F | C25H31F2NO4
